US08232409B2
B. 1-Oxa-2-aza-spiro[4.5]dec-2-ene-3-carboxylic acid
Ethyl 1-oxa-2-aza-spiro[4.5]dec-2-ene-3-carboxylate (8.12 g, 38.5 mmol, as prepared in the previous step) was placed in a 200 mL round-bottom flask equipped with a magnetic stir bar, and MeOH (75 mL) and water (25 mL) were added. Lithium hydroxide monohydrate (1.77 g, 42.3 mmol) was added as a solid. The reaction was stirred at RT for 20 h, and the solvents were removed under reduced pressure. The resulting solid was triturated with ether and collected by filtration. The solid was then dissolved in water (200 mL) and acidified to pH 2 with 3 M aq HCl. The precipitate was isolated by filtration, washed well with water, air dried, and dried under vacuum. The filtrate was extracted three times with DCM (50 mL). The combined organic extracts were dried over anhydrous MgSO4, filtered, and the solvent was removed under reduced pressure. The initial precipitate and the material from the extraction were combined, giving 5.81 g (83%) of the title compound. 1H-NMR (400 MHz, CDCl3) δ: 2.93 (s, 2H), 1.72-1.89 (m, 4H), 1.60-1.72 (m, 2H), 1.37-1.54 (m, 4H).

reactant | Ethyl 1-oxa-2-aza-spiro[4.5]dec-2-ene-3-carboxylate | O1N=C(CC12CCCCC2)C(=O)OCC | C11H17NO3
reactant | MeOH | 75 mL | CO | CH4O
reactant | Lithium hydroxide monohydrate | 42.3 mmol, 1.77 g | O.[OH-].[Li+]
solvent | water | 25 mL | O | H2O
product | 1-Oxa-2-aza-spiro[4.5]dec-2-ene-3-carboxylic acid | 5.81 g, 83% | O1N=C(CC12CCCCC2)C(=O)O | C9H13NO3
